US04272536
Under the same conditions as described in section (A) of Example 4, 1-methylaminotricyclo[4.3.1.12,5 ]undecane was reacted with 2-chloroacetyl chloride to obtain N-methyl-N-(1-tricyclo[4.3.1.12,5 ]undecyl)-2-chloroacetamide in a yield of 85%.

reactant | 1-methylaminotricyclo[4.3.1.12,5 ]undecane | CNC12C3CCC(C(CCC1)C2)C3 | C12H21N
reactant | 2-chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
product | N-methyl-N-(1-tricyclo[4.3.1.12,5 ]undecyl)-2-chloroacetamide | yield of 85% | CN(C(CCl)=O)C12C3CCC(C(CCC1)C2)C3 | C14H22ClNO
